US08110571B2
A solution of 2 g of 2-amino-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate, 3.34 g of phenyl chloroformate, 1.79 g of sodium hydrogen carbonate in 40 cm3 of tetrahydrofuran and 4 cm3 of water is stirred for about 60 hours at a temperature in the region of 20° C. After concentrating the reaction mixture to dryness, the residue is taken up in 20 cm3 of water. The solid is filtered off by suction and washed with twice 5 cm3 of water, and then dried in an oven at 50° C. 2.5 g of 2-[(phenoxycarbonyl)amino]-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate are thus obtained in the form of a brown solid, the characteristics of which are as follows:

reactant | 2-amino-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate | 2 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(N=C(S2)N)C=C1 | C13H8Cl2N2O3S2
reactant | phenyl chloroformate | 3.34 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydrogen carbonate | 1.79 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | water | 4 cm3 | O | H2O
product | 2-[(phenoxycarbonyl)amino]-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate | 2.5 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(N=C(S2)NC(=O)OC2=CC=CC=C2)C=C1 | C20H12Cl2N2O5S2
